US05951968
3-Chloropropyltrimethylsilane (33.14 g, 0.22 mol) was added dropwise over the course of 20 minutes into a mixture of vanillin (30.4 g, 0.2 mol) and potassium carbonate (30.4 g, 0.22 mol) in 150 ml of dry dimethylformamide (DMF) heated to 50° C. under nitrogen. The mixture was maintained for 4 hours at 95°-110° C. The reaction mixture was cooled and poured into ice water. The aqueous phase was extracted 3 times with dichloromethane. The organic phases were dried over sodium sulfate and concentrated in vacuo. After distillation in vacuo (0.04 mm Hg), 47.5 g (yield: 89%) of 3-methoxy-4-(3-trimethylsilanylpropyloxy)benzaldehyde were obtained in the form of a slightly pink oil distilling at 112°-114° C. and employed as such in the following step (b).

reactant | 3-Chloropropyltrimethylsilane | 0.22 mol, 33.14 g | ClCCC[Si](C)(C)C | C6H15ClSi
reactant | vanillin | 0.2 mol, 30.4 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | potassium carbonate | 0.22 mol, 30.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 3-methoxy-4-(3-trimethylsilanylpropyloxy)benzaldehyde | 47.5 g, yield: 89% | COC=1C=C(C=O)C=CC1OCCC[Si](C)(C)C | C14H22O3Si
